US04894380
2-Difluoromethylthio-5-pyrid-2-yl-1,3,4-thiadiazole
A suspension of 341.5 g (l.75 mol) of 2-mercapto-5-pyrid-2-yl-1,3,4-thiadiazole in 4000 ml of dioxane is added to a solution of 230.5 g of 85% potassium hydroxide in 800 ml of water. Then 10 g of potassium iodide and 6 g of tributylammonium bromide are added to the reaction mixture and 750 g (~8.6 mol) of gaseous difluoromethane are introduced over 41/2 hours at 22°-37° C. After evaporating off the dioxane, the reaction mixture is diluted with ethyl acetate, the aqueous phase is separated and the organic solution is washed cold with 1N sodium hydroxide and water, dried over sodium sulfate and clarified with activated carbon. They ethyl acetate is removed under vacuum and the residue is crystallised from ethyl acetate/hexane, affording 321.9 g (75.1%) of the title compound with a melting point of 90°-92° C.

reactant | 2-mercapto-5-pyrid-2-yl-1,3,4-thiadiazole | 75 mol, 341.5 g | SC=1SC(=NN1)C1=NC=CC=C1 | C7H5N3S2
reactant | potassium hydroxide | 230.5 g | [OH-].[K+]
reactant | difluoromethane | ~8.6 mol, 750 g | FCF | CH2F2
solvent | dioxane | 4000 ml | O1CCOCC1 | C4H8O2
solvent | water | 800 ml | O | H2O
catalyst | potassium iodide | 10 g | [I-].[K+]
catalyst | tributylammonium bromide | 6 g | [Br-].C(CCC)[NH+](CCCC)CCCC
product | 2-Difluoromethylthio-5-pyrid-2-yl-1,3,4-thiadiazole | 321.9 g, 75.1% | FC(SC=1SC(=NN1)C1=NC=CC=C1)F | C8H5F2N3S2
